US06586445B1
(3R)-3-(4-Phenyl-1H-imidazol-2-yl)-2,3,4,9-tetrahydro-1′-(tert-butoxycarbonyl)-spiro[1H-β-carboline-1,4′-piperidine]
To a solution of (1R)-2-(1H-indol-3-yl)-1-(4-phenyl-1H-imidazol-2-yl)-1-ethanamine hydrochloride (14 g, 35 mmol) in isopropanol (210 ml) was added 1-tert-butoxycarbonyl-4-piperidone (35 g, 170 mmol) and the mixture refluxed for about two hours. The solvent was evaporated under reduced pressure. Water (150 ml) was added to the residue followed by 10% NaHCO3 solution until neutral pH and extracted by ethyl acetate (4×50 ml). The combined organic extracts were washed with water (2×50 ml) and dried over MgSO4. The solvent was removed under reduced pressure to afford an oil which solidified on addition of diisopropyl ether (150 ml). The precipitate was collected by filtration, washed with diisopropyl ether and dried to afford 13.5 g of the desired product. Melting point: 118-120° C.

reactant | (1R)-2-(1H-indol-3-yl)-1-(4-phenyl-1H-imidazol-2-yl)-1-ethanamine hydrochloride | 35 mmol, 14 g | Cl.N1C=C(C2=CC=CC=C12)C[C@@H](N)C=1NC=C(N1)C1=CC=CC=C1
reactant | 1-tert-butoxycarbonyl-4-piperidone | 170 mmol, 35 g | C(C)(C)(C)OC(=O)N1CCC(CC1)=O | C10H17NO3
reactant | diisopropyl ether | 150 ml | C(C)(C)OC(C)C | C6H14O
solvent | isopropanol | 210 ml | C(C)(C)O | C3H8O
product | (3R)-3-(4-Phenyl-1H-imidazol-2-yl)-2,3,4,9-tetrahydro-1′-(tert-butoxycarbonyl)-spiro[1H-β-carboline-1,4′-piperidine] | 13.5 g | C1(=CC=CC=C1)C=1N=C(NC1)[C@@H]1NC2(CCN(CC2)C(=O)OC(C)(C)C)C=2NC3=CC=CC=C3C2C1 | C29H33N5O2
